US07576077B2
2-[3-({[5-(5-Chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethanol
4-(2-Hydroxyethyl)-5-(2-thienyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione (101 mg), 5-(5-chloro-2-fluorophenyl)-3-(chloromethyl)-1,2,4-oxadiazole (116 mg), and potassium carbonate (86 mg) was stirred in a mixture of DMF (2 ml) and MeCN (15 ml) at r.t. for 3 h before concentration to dryness and washing of the residue with water, and then with EtOAc, to provide 122 mg of the title compound as a white solid.

reactant | 4-(2-Hydroxyethyl)-5-(2-thienyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione | 101 mg | OCCN1C(NN=C1C=1SC=CC1)=S | C8H9N3OS2
reactant | 5-(5-chloro-2-fluorophenyl)-3-(chloromethyl)-1,2,4-oxadiazole | 116 mg | ClC=1C=CC(=C(C1)C1=NC(=NO1)CCl)F | C9H5Cl2FN2O
reactant | potassium carbonate | 86 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 2-[3-({[5-(5-Chloro-2-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}thio)-5-(2-thienyl)-4H-1,2,4-triazol-4-yl]ethanol | 122 mg | ClC=1C=CC(=C(C1)C1=NC(=NO1)CSC1=NN=C(N1CCO)C=1SC=CC1)F | C17H13ClFN5O2S2
